US09359375B2
Commercial 6-fluoropyridin-3-amine (500 mg, 4.46 mmol) was dissolved in 20 mL dry NMP. To it were added pyrazole (910 mg, 13.4 mmol) and cesium carbonate (4.4 g, 13.4 mmol). The mixture was stirred in a sealed tube at 120° C. for over the weekend (3 nights). The mixture was diluted with chloroform, washed with brine (3 times), dried, concentrated and subjected to flash column (0 to 30% EtOAc in DCM) to isolate 6-(1H-pyrazol-1-yl)pyridin-3-amine (120 mg, 17% yield).

reactant | 6-fluoropyridin-3-amine | 4.46 mmol, 500 mg | FC1=CC=C(C=N1)N | C5H5FN2
reactant | pyrazole | 13.4 mmol, 910 mg | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 13.4 mmol, 4.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-(1H-pyrazol-1-yl)pyridin-3-amine | 120 mg, 17% yield | N1(N=CC=C1)C1=CC=C(C=N1)N | C8H8N4
